US08048881B2
23.1. 6-methyl-2-phenyl-pyrimidin-4-ol
Benzamidine hydrochloride (1.56 g), ethyl acetoacetate (1.26 ml) and sodium methoxide (30% in MeOH, 3.7 ml) were dissolved in EtOH (10 ml) and the resulting mixture was refluxed overnight. It was cooled down and the white suspension was filtered off. The solid was washed with water and high-vacuum dried. 1.83 g of a white solid were obtained.

reactant | Benzamidine hydrochloride | 1.56 g | Cl.C(C1=CC=CC=C1)(=N)N
reactant | ethyl acetoacetate | 1.26 ml | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sodium methoxide | 3.7 ml | C[O-].[Na+]
solvent | EtOH | 10 ml | CCO | C2H6O
product | 6-methyl-2-phenyl-pyrimidin-4-ol | 1.83 g | CC1=CC(=NC(=N1)C1=CC=CC=C1)O | C11H10N2O
